* Balanced extracted frontend sign-preservation diagnostic.

.include "/home/mehtama1/git-repo/ai-hardware-analysis/analog-digital-chip-design-eda/labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/sky130_balanced_capacitive_isolation_frontend_extracted.spice"
.param vdd=1.8
.param vinp=0.900076485293
.param vinn=0.899923514707
VDD vdd 0 {vdd}
VSS vss 0 0
VSP sp 0 PULSE(0 {vinp} 0.05n 20p 20p 20n 40n)
VSN sn 0 PULSE(0 {vinn} 0.05n 20p 20p 20n 40n)
VCS clk_sample 0 PULSE(0 {vdd} 1.00n 20p 20p 5n 10n)
VCL clk_latch 0 PULSE(0 {vdd} 2.00n 20p 20p 5n 10n)
VCM vcm_reset 0 PULSE(0.9 1.8 0.50n 20p 20p 0.50n 2n)
XFRONT vss vdd sp sense_p clk_sample vcm_reset clk_latch sense_n sn sky130_balanced_capacitive_isolation_frontend
RBIASP sense_p vcm_reset 100G
RBIASN sense_n vcm_reset 100G
.tran 2p 3n
.measure tran sp_after_v FIND v(sp) AT=2.60n
.measure tran sn_after_v FIND v(sn) AT=2.60n
.measure tran sense_p_before_v FIND v(sense_p) AT=0.90n
.measure tran sense_n_before_v FIND v(sense_n) AT=0.90n
.measure tran sense_p_after_v FIND v(sense_p) AT=2.60n
.measure tran sense_n_after_v FIND v(sense_n) AT=2.60n
.control
run
.endc
.end
